US09212187B2
Synthesis of N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)benzenesulfonamide hydrochloride
Triethylamine (0.35 ml) was added to a dichloromethane solution (5 ml) of 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one (219 mg) and ice-cooled. Benzenesulfonyl chloride (0.096 ml) was added to the resulting mixture, and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate). The purified product was concentrated under reduced pressure. A 1N-hydrogen chloride ethanol solution (0.16 ml) was added to the solution of the residue in ethanol, and stirred for 30 minutes at room temperature. The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to give the title compound (68 mg) as a yellow powder.

reactant | Triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-6-[5-(2-pyridin-3-ylethylamino)pentyloxy]-1H-quinolin-2-one | 219 mg | CN1C(C=CC2=CC(=CC=C12)OCCCCCNCCC=1C=NC=CC1)=O | C22H27N3O2
reactant | Benzenesulfonyl chloride | 0.096 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)benzenesulfonamide hydrochloride | 68 mg | Cl.CN1C(C=CC2=CC(=CC=C12)OCCCCCN(S(=O)(=O)C1=CC=CC=C1)CCC=1C=NC=CC1)=O | InChI=1S/C28H31N3O4S.ClH/c1-30-27-14-13-25(21-24(27)12-15-28(30)32)35-20-7-3-6-18-31(19-16-23-9-8-17-29-22-23)36(33,34)26-10-4-2-5-11-26;/h2,4-5,8-15,17,21-22H,3,6-7,16,18-20H2,1H3;1H
